US05919790
Ethyl 2-cyclohexanoneacetate (4.28 g, 23.3 mmol) and O-benzyl hydroxylamine hydrochloride were combined in 100 mL of ethanol (EtOH) and 2.59 g (25.6 mmol, 3.55 mL) of triethyl amine(Et3N) was added. The reaction was stirred at room temperature for 12 hours at which point it was concentrated in vacuo. The residue was taken up in EtOAc and washed with 1N HCl (2×20 mL), saturated NaHCO3 (1×20 mL), dried over Na2SO4, filtered, and concentrated. Purification by chromatography (SiO2, 90:1 hexanes-EtOAc) afforded (2-benzyloxyimino-cyclohexyl)-acetic acid ethyl ester (4.76 g, 72%) as a mixture of oxime isomers.

reactant | Ethyl 2-cyclohexanoneacetate | 23.3 mmol, 4.28 g | CCOC(=O)CC1CCCCC1=O | C10H16O3
reactant | O-benzyl hydroxylamine hydrochloride | Cl.C(C1=CC=CC=C1)ON
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | (2-benzyloxyimino-cyclohexyl)-acetic acid ethyl ester | 4.76 g, 72% | C(C)OC(CC1C(CCCC1)=NOCC1=CC=CC=C1)=O | C17H23NO3
